US08293715B2
Synthesis of benzyl 2-(methylamino)ethylcarbamate
N-Methylethylenediamine (2.0 g) was dissolved in dioxane (20 ml), the solution was added with N-carbobenzoxysuccinimide (8.07 g), and the mixture was stirred at room temperature for 4 days. The reaction mixture was added with distilled water and chloroform, the layers were separated, and the organic layer was dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1 to 2:1), and then purified again by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=30:1:0.1) to obtain the title compound (243 mg).

reactant | N-Methylethylenediamine | 2.0 g | CNCCN | C3H10N2
reactant | N-carbobenzoxysuccinimide | 8.07 g | C(=O)(OCC1=CC=CC=C1)N1C(CCC1=O)=O | C12H11NO4
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | benzyl 2-(methylamino)ethylcarbamate | 243 mg | CNCCNC(OCC1=CC=CC=C1)=O | C11H16N2O2
